US09370184B2
4. Synthesis of 7-methyl-N-(1-methyltetrazol-5-yl)-1,7-naphthyridin-8(7H)-one-6-carboxamide, (Table Example No. 5-3)
At 0° C., 114 mg (0.96 mmol) of thionyl chloride are added to 150 mg (0.74 mmol) of 7-methyl-1,7-naphthyridin-8(7H)-one-6-carboxylic acid and 110 mg (1.1 mmol) of 1-methyl-5-aminotetrazole in 3 ml of pyridine. The mixture is stirred at RT for 16 h. The reaction is then quenched with a little water, the pyridine is evaporated and the residue is purified by HPLC. Yield 27 mg (13%).

reactant | thionyl chloride | 0.96 mmol, 114 mg | S(=O)(Cl)Cl | Cl2OS
reactant | 7-methyl-1,7-naphthyridin-8(7H)-one-6-carboxylic acid | 0.74 mmol, 150 mg | CN1C(=CC=2C=CC=NC2C1=O)C(=O)O | C10H8N2O3
reactant | 1-methyl-5-aminotetrazole | 1.1 mmol, 110 mg | CN1N=NN=C1N | C2H5N5
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 7-methyl-N-(1-methyltetrazol-5-yl)-1,7-naphthyridin-8(7H)-one-6-carboxamide | CN1C(=CC=2C=CC=NC2C1=O)C(=O)NC1=NN=NN1C | C12H11N7O2
